US07521444B2
1,1′-Carbonyldiimidazole (1.82 g, 11.2 mmol) was added to a slurry of 13-cyclohexyl-3-methoxy-6-(methoxycarbonyl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid (3.85 g, 8.65 mmol) in THF (15 mL). The reaction mixture was heated at 60° C. for 1.5 h, cooled to rt, treated with cyclopropanesulfonamide (1.36 g, 11.2 mmol), stirred 10 min and then treated with the dropwise addition of a solution of DBU (2.0 mL, 13 mmol) in THF (3 mL). The reaction mixture was stirred at rt overnight, diluted with EtOAc (100 mL) and washed with H2O (˜30 mL), 1N HCl (aq.) (2×50 mL) and brine (˜30 mL). The combined aqueous layers were extracted with EtOAc (100 mL) and the organic layer was washed with 1N HCl (aq.) (˜50 mL). The combined organic layers were washed with brine (˜30 mL), dried (MgSO4), filtered and concentrated. The residue was stirred with Et2O (˜100 mL) for 2 h and the solids were collected by filtration, rinsed with Et2O and dried to yield methyl 13-cyclohexyl-10-((cyclopropylsulfonyl)carbamoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-6-carboxylate (4.24 g, 7.73 mmol, 89%) as a pale yellow solid which was used without further purification. 1HNMR (300 MHz, CDCl3) δ 1.08-2.13 (m, 14H), 2.73-2.87 (m, 1H), 3.13-3.24 (m, 1H), 3.82 (s, 3H), 3.89 (s, 3H), 4.04-4.27 (m, 1H), 5.50-5.71 (m, 1H), 6.98 (d, J=2.6 Hz, 1H), 7.08 (dd, J=8.8, 2.6 Hz, 1H), 7.44 (dd, J=8.4, 1.1 Hz, 1H), 7.50 (d, J=8.8 Hz, 1H), 7.80 (s, 1H), 7.86 (d, J=8.4 Hz, 1H), 8.11 (br s, 1H), 8.78 (br s, 1H). LCMS: m/e 549 (M+H)+, ret time 3.79 min, column B, 4 minute gradient.

reactant | 1,1′-Carbonyldiimidazole | 11.2 mmol, 1.82 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 13-cyclohexyl-3-methoxy-6-(methoxycarbonyl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid | 8.65 mmol, 3.85 g | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C(=O)OC)C=C(C=C1)OC)C(=O)O | C27H27NO5
reactant | cyclopropanesulfonamide | 11.2 mmol, 1.36 g | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | DBU | 13 mmol, 2.0 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | methyl 13-cyclohexyl-10-((cyclopropylsulfonyl)carbamoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-6-carboxylate | 7.73 mmol, 4.24 g, 89% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C(=O)OC)C=C(C=C1)OC)C(NS(=O)(=O)C1CC1)=O | C30H32N2O6S
